US06455521B1
In the same manner as in Example 125 and using 8-chloro-2-methylthieno[2,3-b][1,5]benzoxazepin-4(5H)-one, phosphorus oxychloride, N,N-dimethylaniline and 1-methylpiperazine, 8-chloro-2-methyl-4-(4-methylpiperazin-1-yl)thieno[2,3-b][1,5]benzoxazepine is obtained.

reactant | 8-chloro-2-methylthieno[2,3-b][1,5]benzoxazepin-4(5H)-one | ClC1=CC2=C(NC(C3=C(O2)SC(=C3)C)=O)C=C1 | C12H8ClNO2S
reactant | phosphorus oxychloride | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | N,N-dimethylaniline | CN(C1=CC=CC=C1)C | C8H11N
reactant | 1-methylpiperazine | CN1CCNCC1 | C5H12N2
product | 8-chloro-2-methyl-4-(4-methylpiperazin-1-yl)thieno[2,3-b][1,5]benzoxazepine | ClC1=CC2=C(N=C(C3=C(O2)SC(=C3)C)N3CCN(CC3)C)C=C1 | C17H18ClN3OS
